US06071935
A. (2-Hydroxy-2-hydroxymethyl-6,6-dimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-carbamic acid benzyl ester
(6,6-Dimethyl-2-methylene-bicyclo[3.1.1]hept-3-ylmethyl)-carbamic acid benzyl ester (2.19 g, 7.32 mmol), prepared in step B of example 47, was dissolved in CH2Cl2 (50 ml). To this solution was added trimethylamine N-oxide dihydrate (894 mg, 8.79 mmol) and osmium tetroxide (136 mg, 0.535 mmol). The solution was stirred at ambient temperature for 16 hours after which time the reaction was concentrated under vacuum and chromatographed on silica gel using a gradient starting with 30% ethyl acetate in hexanes to 50% ethyl acetate in hexanes to give 1.51 g of the titled compound as a brown oil: C.I. m/z 316 [M+1-H2 0]; 1H NMR (CDCl3)δ 7.31-7.39 (m, 5H), 5.59 (br s, 1H), 5.12 (s, 2H), 3.30-3.58 (m, 4H), 1.93-2.28 (m, 4H), 1.52 (m, 1H), 1.24-1.30 (m, 5H), 0.96 (s, 3H).

reactant | (6,6-Dimethyl-2-methylene-bicyclo[3.1.1]hept-3-ylmethyl)-carbamic acid benzyl ester | 7.32 mmol, 2.19 g | C(C1=CC=CC=C1)OC(NCC1C(C2C(C(C1)C2)(C)C)=C)=O | C19H25NO2
reactant | trimethylamine N-oxide dihydrate | 8.79 mmol, 894 mg | O.O.C[N+](C)(C)[O-]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | osmium tetroxide | 0.535 mmol, 136 mg | [Os](=O)(=O)(=O)=O
product | (2-Hydroxy-2-hydroxymethyl-6,6-dimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-carbamic acid benzyl ester | 1.51 g | C(C1=CC=CC=C1)OC(NCC1C(C2C(C(C1)C2)(C)C)(CO)O)=O | C19H27NO4
